US04481340
(b) Preparation of N-(dimethylaminoethyl)2,3-dimethylmaleimide
A solution of 17.5 g (0.2 mol.) of asym.dimethyl ethylene diamine in 100 ml of methanol is added dropwise to a solution of 25.1 g (0.2 mol.) of 2,3-dimethyl maleic acid anhydride in 100 ml of chloroform. The mixture is stirred for one hour at 15° C. The solvents are evaporated in vacuo and the residue is recrystallised from acetone. The pure product has a melting point of 9° C. and is used in the next step (c).

reactant | dimethyl ethylene diamine | CNCCNC | C4H12N2
reactant | 2,3-dimethyl maleic acid anhydride | 0.2 mol, 25.1 g | C/C=1/C(=O)OC(\C1\C)=O | C6H6O3
reactant | methanol | 100 ml | CO | CH4O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(dimethylaminoethyl)2,3-dimethylmaleimide | CN(C)CCN1C(C(=C(C1=O)C)C)=O | C10H16N2O2
